US05731438
Bromo-N-cycloheptyl acetamide
To a -20° C. solution of cycloheptylamine (6.37 mL, 50.0 mmol) and diisopropylethylamine (9.58 mL, 55.0 mmol) in methylene chloride (250 mL) was slowly added bromoacetyl bromide (4.78 mL, 55.0 mmol). The reaction mixture was warmed to room temperature over 20 minutes and stirred for an addition 30 minutes. The reaction mixture was diluted with water (100 mL) and stirred for an additional 30 minutes. The organic layer was separated, washed with water (3×100 mL), dried over magnesium sulfate and concentrated in vacuo to afford a beige solid (10.5 g). The crude material was further purified by silica gel flash column chromatography using hexane-ethyl acetate (1:1) as the eluent to give the purified title compound as a whim solid (9.77 g, 83%).

reactant | cycloheptylamine | 50.0 mmol, 6.37 mL | C1(CCCCCC1)N | C7H15N
reactant | diisopropylethylamine | 55.0 mmol, 9.58 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromoacetyl bromide | 55.0 mmol, 4.78 mL | BrCC(=O)Br | C2H2Br2O
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | Bromo-N-cycloheptyl acetamide | 10.5 g | BrCC(=O)NC1CCCCCC1 | C9H16BrNO
